US06090753
Then, 60 g of iron powder and 500 ml of 10% acetic acid were mixed, and the mixture was heated to 40° C. Separately, 50 g (0.20 mol) of ethyl 2-chloro-4-fluoro-5-nitrobenzoate was dissolved in a mixed solution of 20 ml of acetic acid and 20 ml of ethyl acetate, and added dropwise to the above iron powder-acetic acid mixed solution. Then, the reaction mixture was stirred at 50° C. for 1 hour and filtered though celite. The filtrate was extracted with 100 ml of ethyl acetate. The ethyl acetate layer was washed with aqueous sodium bicarbonate solution and saturated sodium chloride solution, and dried with magnesium sulfate. The solvent was distilled out, and the residue was purified by silica gel chromatography, which afforded to 40 g (0.18 mol) of ethyl 5-amino-2-chloro-4-fluorobenzoate.

reactant | ethyl 2-chloro-4-fluoro-5-nitrobenzoate | 0.20 mol, 50 g | ClC1=C(C(=O)OCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H7ClFNO4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 60 g | [Fe] | Fe
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-amino-2-chloro-4-fluorobenzoate | 0.18 mol, 40 g | NC=1C(=CC(=C(C(=O)OCC)C1)Cl)F | C9H9ClFNO2
